US04195023
4-Sulfo-2-furoic acid (0.1 mole) is stirred with 30 ml of thionyl chloride (SOCl2) for 40 minutes at 60° C. The reaction mixture is evaporated to dryness to give 4-sulfo-2-furoyl chloride.

reactant | 4-Sulfo-2-furoic acid | 0.1 mole | S(=O)(=O)(O)C=1C=C(OC1)C(=O)O | C5H4O6S
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-sulfo-2-furoyl chloride | S(=O)(=O)(O)C=1C=C(OC1)C(=O)Cl | C5H3ClO5S
